US06617351B1
To a stirred suspension of (R)-2-phenyl-1-propylamine malate salt (24.3 g, 0.0601 mol, prepared directly above) in CH2Cl2 (200 mL) was added 1.0 N NaOH dropwise at room temperature. The organic phase was isolated, extracted with brine (1×125 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to give 19 g (theory: 16.3 g) of (R)-2-phenyl-1-propylamine as a clear, colorless oil.

reactant | (R)-2-phenyl-1-propylamine malate salt | C(C(O)CC(=O)O)(=O)O.C1(=CC=CC=C1)[C@H](CN)C
reactant | NaOH | 1.0 N | [OH-].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-phenyl-1-propylamine | 19 g | C1(=CC=CC=C1)[C@H](CN)C | C9H13N
